US06613803B1
b) 4-(4-Chloro-2-pyridinoxy)benzaldehyde semicarbazone
To a solution of 4-(4-chloro-2-pyridinoxy)benzaldehyde (330 mg, 1.41 mmol) in ethanol (10 mL) was added a solution of semicarbazide hydrochloride (213 mg, 1.84 mmol) and sodium acetate trihydrate (224 mg, 1.65 mmol) in water (5 mL). The mixture was stirred at room temperature for 30 min., and the resulting solid was collected by filtration, washed with water and dried in vacuo to yield the title compound as a white solid (400 mg, 1.36 mmol, 96%), mp: 231-233° C. 1H NMR (DMSO-d6): δ 10.22 (s, 1H), 8.22 (d, J=2.5, 1H), 7.97 (dd, J=2.5, 8.7, 1H), 7.85 (s, 1H), 7.77 (d, J=8.7, 2H), 7.15 (d, J=8.7, 2H) 7.12 (d, J=8.7, 1H), 6.47 (s, 2H).

reactant | 4-(4-chloro-2-pyridinoxy)benzaldehyde | 1.41 mmol, 330 mg | ClC1=CC(=NC=C1)OC1=CC=C(C=O)C=C1 | C12H8ClNO2
reactant | semicarbazide hydrochloride | 1.84 mmol, 213 mg | Cl.NNC(=O)N
reactant | sodium acetate trihydrate | 1.65 mmol, 224 mg | O.O.O.C(C)(=O)[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | 4-(4-Chloro-2-pyridinoxy)benzaldehyde semicarbazone | 1.36 mmol, 400 mg, 96% | ClC1=CC(=NC=C1)OC1=CC=C(C=NNC(=O)N)C=C1 | C13H11ClN4O2
